US06518257B1
(iii) Production of N-(2-{4-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl]phenyl}-4-pyridyl)acetamide
By the reaction in the same manner as in Example 4-(iii) using N-(2-{4-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl]phenyl}-4-pyridyl)acetamide (0.590 g) and pyridine hydrochloride (190 mg), the title compound (150 mg) was obtained as colorless powder crystals.

reactant | N-(2-{4-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl]phenyl}-4-pyridyl)acetamide | 0.590 g | OC(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)C1=NC=CC(=C1)NC(C)=O | C39H36N4O2
reactant | pyridine hydrochloride | 190 mg | Cl.N1=CC=CC=C1
product | N-(2-{4-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl]phenyl}-4-pyridyl)acetamide | 150 mg | OC(C(C)C)(C=1N=CNC1)C1=CC=C(C=C1)C1=NC=CC(=C1)NC(C)=O | C20H22N4O2
